US07790737B2
A solution of 2-[(cyclopentylmethyl)(ethyl)amino]-6-ethylpyridine-3-carbonitrile (484 mg, 1.87 mmol) in dichloromethane (5 mL) was added with diisobutylaluminum hydride (0.99 M solution in toluene, 1.99 mL, 1.97 mmol) at −78° C., and the mixture was stirred at the same temperature for 4 hours. The mixture was further added with diisobutylaluminum hydride (0.99 M solution in toluene, 0.2 mL, 0.198 mmol) at the same temperature, and the mixture was stirred at the same temperature for 45 minutes. Then, the mixture was added with 2 M aqueous sodium hydroxide, stirred at room temperature for 30 minutes, and extracted with chloroform. The organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:1) to obtain 2-[(cyclopentylmethyl)(ethyl)amino]-6-ethylnicotinaldehyde (233 mg, 48%) as yellow oil.

reactant | 2-[(cyclopentylmethyl)(ethyl)amino]-6-ethylpyridine-3-carbonitrile | 1.87 mmol, 484 mg | C1(CCCC1)CN(C1=NC(=CC=C1C#N)CC)CC | C16H23N3
reactant | diisobutylaluminum hydride | 1.97 mmol, 0.99 M, 1.99 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 0.198 mmol, 0.99 M, 0.2 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[(cyclopentylmethyl)(ethyl)amino]-6-ethylnicotinaldehyde | 233 mg, 48% | C1(CCCC1)CN(C1=C(C=O)C=CC(=N1)CC)CC | C16H24N2O
